US03953604
A mixture of 1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-phenoxypropane (10.0 g), ethanol (5 ml), benzene (100 ml) and concentrated sulphuric acid (5 drops) was heated under reflux for 6 hours, the water that formed being collected in a phase separator. The cooled solution was washed with saturated sodium bicarbonate solution and water. Removal of the benzene under reduced pressure yielded 1-(2-carbethoxychromon-5-yloxy)-2-hydroxy-2-phenoxypropane as a viscous oil.

reactant | 1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-phenoxypropane | 10.0 g | C(=O)(O)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=CC=CC=C1)O | C19H16O7
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | water | O | H2O
catalyst | sulphuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | 1-(2-carbethoxychromon-5-yloxy)-2-hydroxy-2-phenoxypropane | C(=O)(OCC)C=1OC2=CC=CC(=C2C(C1)=O)OCC(C)(OC1=CC=CC=C1)O | C21H20O7
